US04745115
1-(2'-Fluorophenyl)-1,4-dihydro-benz[h]isoquinol-3-one
From naphthalene-2-acetonitrile and 2-fluorobenzaldehyde. m.p. 265°-8° (ethanol).

reactant | naphthalene-2-acetonitrile | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | ethanol | C(C)O | C2H6O
product | 1-(2'-Fluorophenyl)-1,4-dihydro-benz[h]isoquinol-3-one | FC1=C(C=CC=C1)C1NC(CC2=CC=C3C(=C12)C=CC=C3)=O | C19H14FNO
